US05362729
A mixture of 17.2 g (0.1 mol) of 4-(1H-imidazol-1-yl)benzaldehyde, 26 g (0.2 mol) of ethyl acetoacetate and 5 ml of concentrated NH4OH in absolute ethanol (25 ml) was refluxed for 6 hours. The mixture was poured into 500 ml of ice-water and the aqueous solution was extracted with methylene chloride. The organic layers were put together, dried over CaCl2 and evaporated under vacuum. The crude product was recrystallized from Et2O, giving 25.7 g (65%) of 1,4-dihydro-2,6-dimethyl-4-[4-(1H-imidazol-1-yl)phenyl]-3,5-pyridinedicarboxylic acid, diethyl ester, m.p. 231°-233° C.

reactant | 4-(1H-imidazol-1-yl)benzaldehyde | 0.1 mol, 17.2 g | N1(C=NC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
reactant | ethyl acetoacetate | 0.2 mol, 26 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | NH4OH | 5 ml | [NH4+].[OH-]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1,4-dihydro-2,6-dimethyl-4-[4-(1H-imidazol-1-yl)phenyl]-3,5-pyridinedicarboxylic acid, diethyl ester | 25.7 g, 65% | CC=1NC(=C(C(C1C(=O)OCC)C1=CC=C(C=C1)N1C=NC=C1)C(=O)OCC)C | C22H25N3O4
